US07632838B2
tert-butyl 1-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)pyrrolidine-2-carboxylate (316.0 mg, 0.547 mmol), CeCl3.7H2O (815.0 mg, 2.19 mmol) and KI (363.0 mg, 2.19 mmol) charged to a microwave vial were added with CH3CN (12 mL) and water (0.2 mL). The reaction mixture was subjected to microwave irradiation at 110° C. for 1 hour. This reaction was repeated twice. Both reaction mixtures were then combined and the supernatant clear solution was transferred into a flask, added with CH2Cl2 and stirred at room temperature. Solid was filtered off, filtrate concentrated, dried under high vacuum to yield crude 1-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)pyrrolidine-2-carboxylic acid which will be used as it is for the next step.

reactant | tert-butyl 1-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)pyrrolidine-2-carboxylate | 0.547 mmol, 316.0 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)N1C(CCC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C25H31F4N3O4S2
reactant | CH3CN | 12 mL | CC#N | C2H3N
reactant | water | 0.2 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(5-((R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)thiophen-2-yl)pyrrolidine-2-carboxylic acid | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)N1C(CCC1)C(=O)O)C)C(F)(F)F | C21H23F4N3O4S2
